US06939871B2
4-(3-Fluoro-4-methoxy-benzyl)-piperidine-1-carboxylic acid tert-butyl ester (D59)
A solution of 4-(3-fluoro-4-methoxy-benzylidene)-piperidine-1-carboxylic acid tert-butyl ester (4.7 g, 14.6 mmol) in methanol (400 mL) was allowed to stir under atmospheric pressure of hydrogen at room temperature in the presence of 10% palladium on carbon (0.8 g) for 16 hours. Removal of the catalyst by filtration and evaporation of the filtrate gave a crude oil. Silica gel chromatography eluting with ethyl acetate in hexane (10%) gave the title compound (4.3 g, 99%) as a colourless oil.

reactant | 4-(3-fluoro-4-methoxy-benzylidene)-piperidine-1-carboxylic acid tert-butyl ester | 14.6 mmol, 4.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=CC(=C(C=C1)OC)F | C18H24FNO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 mL | CO | CH4O
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
product | 4-(3-Fluoro-4-methoxy-benzyl)-piperidine-1-carboxylic acid tert-butyl ester | 4.3 g, 99% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC(=C(C=C1)OC)F | C18H26FNO3
